US09145415B2
To a solution of (9H-fluoren-9-yl)methyl (2-amino-4-methoxy-2-(2-methoxyethyl)butyl)carbamate (G23, 186 mg) and 4-pentynal (42 mg) in methylene chloride (5 mL), sodium triacetoxyborohydride (247 mg) and acetic acid (26 μL) were added at room temperature, and the mixture was stirred at the same temperature for 3 hours. To the reaction mixture, ethyl acetate and saturated aqueous sodium hydrogencarbonate were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 60 to 0% hexane in ethyl acetate) to obtain (9H-fluoren-9-yl)methyl (4-methoxy-2-(2-methoxyethyl)-2-((4-pentyn-1-yl)amino)butyl)carbamate (G24, 102 mg).

reactant | (9H-fluoren-9-yl)methyl (2-amino-4-methoxy-2-(2-methoxyethyl)butyl)carbamate | NC(CNC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)(CCOC)CCOC | C23H30N2O4
reactant | 4-pentynal | 42 mg | C(CCC#C)=O | C5H6O
reactant | sodium triacetoxyborohydride | 247 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 26 μL | C(C)(=O)O | C2H4O2
product | (9H-fluoren-9-yl)methyl (4-methoxy-2-(2-methoxyethyl)-2-((4-pentyn-1-yl)amino)butyl)carbamate | 102 mg | COCCC(CNC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)(NCCCC#C)CCOC | C28H36N2O4
